US05550240
Preparation of 4-(1-adamantylamino)-6-chloro-2-pyrrolidinopyrimidine
4-(1-Adamantylamino)-2,6-dichloropyrimidine is reacted with pyrrolidine as described in Example 12 to obtain the title product in a yield of 80.2%, m.p.: 186°-190° C.

reactant | 4-(1-Adamantylamino)-2,6-dichloropyrimidine | C12(CC3CC(CC(C1)C3)C2)NC2=NC(=NC(=C2)Cl)Cl | C14H17Cl2N3
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 4-(1-adamantylamino)-6-chloro-2-pyrrolidinopyrimidine | yield of 80.2% | C12(CC3CC(CC(C1)C3)C2)NC2=NC(=NC(=C2)Cl)N2CCCC2 | C18H25ClN4
